US05834463
1-Benzyl-4-((E)-styryl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one
To a solution of 1-benzyl-4-methyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one (3.0 g, 11.4 mmol) in N,N-dimethylformamide (20 mL) was added sodium hydride (content 60%, 0.51 g, 12.8 mmol), and the mixture was stirred for 15 minutes at room temperature. To the reaction mixture was added benzaldehyde (1.45 g, 13.7 mmol), which was stirred for further 30 minutes at the same temperature. The reaction mixture was diluted with water, which was subjected to extraction with ethyl acetate. The extract solution was washed with water and dried, followed by concentration. The concentrate was crystallized from ethylacetate-hexane to give 1.9 g of the titled compound. Yield 75%. m.p. 150°-151° C.

reactant | 1-benzyl-4-methyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | 11.4 mmol, 3.0 g | C(C1=CC=CC=C1)N1C(CC(=NC2=C1C=CC=C2)C)=O | C17H16N2O
reactant | sodium hydride | 12.8 mmol, 0.51 g | [H-].[Na+]
reactant | benzaldehyde | 13.7 mmol, 1.45 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Benzyl-4-((E)-styryl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | 1.9 g, Yield 75% | C(C1=CC=CC=C1)N1C(CC(=NC2=C1C=CC=C2)\C=C\C2=CC=CC=C2)=O | C24H20N2O
